US05153226
(±)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[(phenylmethyl)amino]benzeneacetamide
A solution of (±)-N-[2,6-bis(1-Methylethyl)phenyl]-α-bromobenzeneacetamide (4.3 g, 12 mmol), benzylamine (1.8 g, 18 mmol), and triethylamine (8.0 mL, 57 mmol) in toluene was refluxed (96 hours) then cooled and concentrated in vacuo. The residue was taken up in ethyl acetate (300 mL), washed with water (2×100 mL), with saturated aqueous sodium bicarbonate (1×100 mL), with brine (1×100 mL), then dried (MgSO4) and concentrated to a solid. The solid was recrystallized from ethyl acetate/hexane to yield 3.35 g (72.8%) of the title compound as a white solid, mp 134°-137° C.

reactant | (±)-N-[2,6-bis(1-Methylethyl)phenyl]-α-bromobenzeneacetamide | 12 mmol, 4.3 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C1=CC=CC=C1)Br)=O | C20H24BrNO
reactant | benzylamine | 18 mmol, 1.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 57 mmol, 8.0 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (±)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[(phenylmethyl)amino]benzeneacetamide | 3.35 g, 72.8% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C1=CC=CC=C1)NCC1=CC=CC=C1)=O | C27H32N2O
